* F:\Documents\GitHub\Eurorack-Modular-Synth\Modules\VCO\Simulations\DAC_output.asc
XU1 0 N005 VCC VEE N002 NE5532TI_SN
V1 VCC 0 12
V2 0 VEE 12
R1 N005 N001 3k
R2 N002 N001 5.6k
Vsweep1 NC_01 0 AC 1
C1 N002 N005 1n
V3 N007 0 SINE(2.5 2.5 5k) AC 0
R3 N001 N008 5.6k
C2 0 N001 4n
C3 N009 N002 10µ
XU2 0 N003 VCC VEE N006 NE5532TI_SN
R4 N010 N009 20k
C4 N006 N003 47p
R5 N004 N003 100k
R6 N004 N006 1k
R7 N004 0 100k
R8 N003 N010 30k
C5 N008 N007 10µ
.inc NE5532_SN.mod
.tran 0 1m 0 10n
* .ac dec 10000 10 1G
.four 5000 10 100 V(n002)
.options numdgt = 7
.options plotwinsize = 0
.backanno
.end
